Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Chlorhexadine / Cephalosporins
 
Attending: ___
 
Chief Complaint:
Coffee ground emesis, melena
 
Major Surgical or Invasive Procedure:
EGD ___
 
History of Present Illness:
Mr. ___ is a ___ y.o. gentleman with ischemic 
cardiomyopathy (EF 15% ___, DM2 c/b ESRD (iHD MWF), CAD 
s/p CABG, Afib w/ h/o cardioembolic stroke (on Eliquis) and h/o 
L atrial appendage clot, MSSA endocarditis with ICD pacer lead 
vegetation s/p ICD explant ___ on cefazolin, b/l BKA, who 
initially presented on ___ from rehab to ___ 
with acute episode of coffee-ground emesis and melena admitted 
to the ICU for monitoring.

He initially presented from rehab to ___ 
following one episode of coffee ground emesis and melena that 
occurred early morning ___. On initial presentation BP ___, 
hgb 6.3. He received 3 units pRBCs prior to transfer, IV PPI, 
and was transferred to ___ for further management.

Of note, he was recently admitted at ___ from ___ for 
MSSA bacteremia and ICD lead infection, for which ICD was 
removed (___) and PICC placed for 6-week course of IV 
cefazolin (end date ___. During this hospitalization, he 
had occasional beats of self-limited Vtach; however, EP felt no 
indication for life vest at the time given ICD never fired and 
his episodes were self-limited.

BI ED Course: Hemodynamically stable, no further melena or 
emesis. Hemoglobin did not respond appropriately to 3 units 
pRBCS he had received and he received a 4th unit. GI was 
consulted and is planning for EGD  

On arrival to the MICU, he reports feeling better overall with 
no acute concerns. He denies any fevers, cough, dyspnea, chest 
pain, abdominal pain or burning, prior hematemesis/coffee ground 
emesis, diarrhea, prior melena or hematochezia. Does endorse 
dysuria and states he recently started producing urine again.

 

 
Past Medical History:
1. CARDIAC RISK FACTORS
- Diabetes Type II
- Hypertension
- Dyslipidemia
2. CARDIAC HISTORY
- CABG: 5-vessel in ___
- NSTEMI treated medically circa ___
- PERCUTANEOUS CORONARY INTERVENTIONS: None
- PACING/ICD: ___. ___ single chamber dual coil ICD (per ___
notes); batteries not working and currently infected on this
admission
3. OTHER PAST MEDICAL HISTORY
- AF 
- Ischemic cardiomyopathy (EF 15%)
- PAD s/p multiple bypasses and bilateral BKA
- Chronic pain syndrome
- Nocturia
- Peripheral neuropathy
- CKD on HD (___)
- Cardioembolic stroke (L hemiplegia, ___ Neurology)
- L atrial appendage clot 
- Ventricular tachycardia
- Hx rhabdomyolysis
- reported history of HIT but heparin-dependent abx ___ neg

SURGICAL HISTORY
L fem-peroneal bypass ___: LLE angiogram, L BK
___ bypass w/ NRSVG (Cambpell), R BKA ___, 
___,
R pop-DP bypass, ___ toe amputation ___ (___ 
___, Vascular surgeon Dr ___, RLE hematoma
evacuation ___ (___), bypass graft explantation,
tonsillectomy, Debridement ankle infection ___ Revision right
ankle ligament reconstruction with Achilles tendon allograft
___, 5V CABG ___. L ___ ___. R BKA 
(___).

 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or
sudden cardiac death.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated
LUNGS: CTAB, no wheezes, crackles, rhonchi.  
CV: Irregularly irregular, S1, S2, ___ systolic murmur.  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
MSK: L PICC in place, R upper chest tunneled HD line with clean 
dressing. Excoriations on R forearm. No ___ edema, s/p bilateral 
BKA  
NEURO:  A&Ox3, speech clear

DISCHARGE PHYSICAL EXAM
=======================
OBJECTIVE:  
Vitals: ___  Temp: 98.3 BP: 112/54 HR: 64 RR: 18 O2 sat: 
100% O2 delivery: RA 
Weight:  71 kg
Telemetry:  afib, rate ___
General:  Appears older than age, NAD. Slight pallor. 
HEENT:  MMM, poor dentition.
Lungs:  LCATB, good air movement. on RA.
CV:  Irregular, normal S1, S2. ___ Systolic murmur.
Abdomen:  Soft, nontender, nondistended
Ext:  Bilateral BKA, well healed. No skin wounds.
Skin: Tunneled catheter without surrounding erythema.

 
Pertinent Results:
ADMISSION LABS
==============
___ 09:41AM BLOOD WBC-7.9 RBC-2.48* Hgb-7.2* Hct-22.8* 
MCV-92 MCH-29.0 MCHC-31.6* RDW-17.1* RDWSD-56.3* Plt ___
___ 09:41AM BLOOD Neuts-73.4* Lymphs-14.0* Monos-7.6 
Eos-1.6 Baso-0.5 Im ___ AbsNeut-5.83 AbsLymp-1.11* 
AbsMono-0.60 AbsEos-0.13 AbsBaso-0.04
___ 09:41AM BLOOD ___ PTT-45.6* ___
___ 09:41AM BLOOD Glucose-320* UreaN-50* Creat-3.3*# Na-139 
K-5.2 Cl-100 HCO3-23 AnGap-16
___ 09:41AM BLOOD ALT-<5 AST-17 CK(CPK)-131 AlkPhos-142* 
TotBili-0.4
___ 09:41AM BLOOD CK-MB-2 cTropnT-0.10*
___ 09:41AM BLOOD Albumin-2.2* Calcium-7.7* Phos-4.0 Mg-2.0
___ 09:41AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 09:16PM BLOOD Lactate-0.9

INTERVAL LABS
=============
___ 02:51AM BLOOD CRP-29.9*
___ 06:10AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG
___ 07:15AM BLOOD ALT-<5 AST-43* LD(LDH)-198 AlkPhos-144* 
TotBili-0.4
___ 02:56PM BLOOD ___ 09:33PM BLOOD Thrombn-17.8*
___ 04:02AM BLOOD ___

DISCHARGE LABS
==============
___ 06:14AM BLOOD WBC-6.6 RBC-2.67* Hgb-7.6* Hct-25.4* 
MCV-95 MCH-28.5 MCHC-29.9* RDW-17.5* RDWSD-61.4* Plt ___
___ 07:55AM BLOOD ___ PTT-79.0* ___
___ 06:14AM BLOOD Glucose-190* UreaN-39* Creat-4.6*# Na-143 
K-4.3 Cl-101 HCO3-32 AnGap-10
___ 06:14AM BLOOD Calcium-8.3* Phos-3.9 Mg-2.5
___ 06:10AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG
___ 06:13AM BLOOD Vanco-17.9

IMAGING
=======
RUQ/US ___
Cholelithiasis with nonmobile stones at the gallbladder neck in 
a somewhat 
distended gallbladder.  No other findings to suggest acute 
cholecystitis.  
Clinical correlation will be necessary. 

EGD ___
Grade C esophagitis in the distal esophagus
Erythema in the stomach compatible with gastritis
Ulcers in the antrum
Erosions in the duodenal bulb
Ulcer in the duodenal bulb
Recommendations:
Large duodenal ulcer most likely etiology of bleeding. No active 
bleeding, visible vessel or adherent clot.

CXR ___
Lungs clear.  Heart size normal.  No pleural abnormality.  Left 
PIC line ends in the low SVC.  To channel right supraclavicular 
central venous lines end in the region of the superior 
cavoatrial junction.

CXR ___
In comparison with the study of ___, the left subclavian 
PICC line has been removed.  No definite opacity is seen within 
the prior course of the tube, though this would be difficult to 
unequivocally exclude due to the overlying hemodialysis catheter 
and midline sternal wires.
Otherwise, little change in the appearance of the heart and 
lungs.
 
MICRO:
======
___ 2:56 pm BLOOD CULTURE      Source: Line-PICC LINE. 
                            **FINAL REPORT ___
   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 9:33 pm SEROLOGY/BLOOD      Source: Line-PICC. 
                            **FINAL REPORT ___
   HELICOBACTER PYLORI ANTIBODY TEST (Final ___: 
      NEGATIVE BY EIA. 
           (Reference Range-Negative). 

___ 12:16 pm URINE      Source: ___. 
                            **FINAL REPORT ___
   URINE CULTURE (Final ___:    NO GROWTH. 

 
Brief Hospital Course:
BRIEF HOSPITAL SUMMARY
======================
___ y.o. gentleman with ischemic cardiomyopathy (EF 15% 
___, IDDM c/b ESRD (iHD MWF), CAD s/p CABG, Afib w/ h/o 
cardioembolic stroke (on Eliquis) and h/o L atrial appendage 
clot, MSSA bacteremia & ICD pacer lead vegetation s/p ICD 
explant ___ on cefazolin, bilateral BKA who presented with 
coffee ground emesis and melena concerning for upper GI bleed in 
setting of supratherapreutic INR with EGD revealing of large 
duodenal ulcer as likely source of bleeding. Suspect that 
supratherapeutic INR was reflective of a hypoprothrombinemia in 
the setting of a genetic mutation (TPMT) which prevents 
metabolization of cefazolin side chains and increases bleeding 
risk. Patient stabilized after 3 transfusions, started on PPI, 
and antibiotics were switched to Vancomycin for the remainder of 
his course. 
 
ACUTE ISSUES
=============
#GI BLEED: Presented after initial episode of coffee ground 
emesis and melena with hypotension, slight decrease in 
hemoglobin from most recent discharge (7.1 -> 6.3) but 
inappropriate response to 3 units pRBCs. Concern for upper GI 
bleed likely exacerbated by comorbidities, anticoagulation, and 
elevated INR (see below regarding coagulopathy). He denied any 
recent NSAID use. EGD revealing of large duodenal ulcer most 
likely etiology of bleeding, without intervention. He received a 
total of 6 units PRBCs. He was maintained on IV PPI BID and 
transitioned to PO which should be continued for 8 weeks, then 
transitioned to daily dosing in setting of aspirin use. 
Discharged with hemoglobin of 7.6.
 
#COAGULOPATHY: INR on admission 14.9. Received k-centra in ED 
with improvement in INR to 1.9, then uptrended again to 3.1 for 
unclear reasons. Hematology was consulted a felt cefazolin side 
chain may be cauing hypoprothrombinemia, recommended avoiding 
cephalosporins in the future which we added to his allergy list. 
Ultimately decided to anticoagulate with warfarin due to ESRD. 
Bridged with heparin due to history of embolic CVA. Discharge 
INR was 2.8.

#MSSA ENDOCARDITIS: Intially presented with pus from HD line in 
___, subsequently found to have ICD lead infection, s/p 
ICD explant ___ and on cefazolin for ___ - 
___, which was transitioned to vancomycin given concern for 
cefazolin related coagulopathy as above. Vancomycin dosed with 
HD. Will continue to follow with OPAT (full recs in TRANSITIONAL 
ISSUES below). 

#ISCHEMIC CARDIOMYOPATHY, HFrEF (15%): ICD for primary 
prevention for ___ years without shock delivered. Had ICD 
explanted I/s/o bacteremia and pacer lead infection as above. 
Home Lasix and lisinopril were held initially in setting of GIB. 
Metoprolol was fractionated. After GIB stabilized, consolidated 
metoprolol and restarted lisinopril and Will follow-up with EP 
to discuss potential for new ICD after completion of antibiotic 
course.

#AFIB: History of cardioembolic stroke, CHADs2VASC 6.  Held home 
apixaban on admission I/s/o GIB. Decision to change to warfarin 
as INR in setting of ESRD.
 
#CAD S/P CABG: Elevated troponin on admission but flat CK-MB 
likely due to ESRD. No chest pain or ischemic ECG changes. Home 
ASA initially held, then restarted after EGD. He was continued 
on home atorvastatin.
 
#ESRD: Secondary to diabetic nephropathy for which he receives 
iHD on MWF.  Continued HD and sevelamer.
 
#DM2: Held home glimepiride. SSI and glargine once PO intake 
restarted.
  
#CHRONIC BACK PAIN: Held home oxycontin due to hypotension in 
setting of GIB. Oxycodone used about twice daily as well as 
lidocaine patch. Oxycontin discontinued at discharged, as 
patient did not require it. 

TRANSITIONAL ISSUES:
====================
#GIB
- Discharge H/H: 7.6/25.4 (at baseline, anemia of chronic 
disease ___ CKD)
[ ] continue PPI for 7 more weeks (end date: ___
[ ] repeat CBC in 1 week to monitor H/H
[ ] Test for consideration post-discharge: TPMT Genotype

#HFrEF (EF 15%)
[ ] Previously had ICD for primary prevention. Follow up with 
cardiology, discuss new ICD after completion of antibiotics for 
infected ICD lead

#Atrial fibrillation
[ ] Adjust warfarin for INR ___

#Diabetes Mellitus
[ ] Added back Glargine 15u nightly for patient, plus sliding 
scale. Restarting Gliburide at discharge. Pt has taken Glargine 
before, and knows how to self-inject with pens. ___ be able to 
avoid meal-time insulin dosing once Gliburide is restarted. 

#Lost Dentures:
[ ] Patient's dentures were lost at ___, ___ 
___. Phone: 
___. 

#MSSA Endocarditis
[ ] Continue vancomycin with OPAT through ___. Recs below:

ID OPAT Program Intake Note - Order Recommendations
OPAT Diagnosis: 
- Prior diagnosis MSSA endocarditis in setting of ICD vegetation 
s/p explant, ___ HD line infection.  Admitted this time with 
UGIB likely ___ TMPT def ___ cefazolin

OPAT Antimicrobial Regimen and Projected Duration:
- Agent & Dose: Vancomycin with HD session
- Start Date: ___ (cefazolin discontinued, vancomycin 
started ___
- Projected End Date: ___ 

LAB MONITORING RECOMMENDATIONS: 
- ALL LAB RESULTS SHOULD BE SENT TO:
- ATTN: ___ CLINIC - FAX: ___
- Vancomycin levels pre-HD as per HD protocol dosing
- ONCE WEEKLY: CBC WITH DIFFERENTIAL, AST/ALT/ALKPHOS/TBILI, BMP
(HD PATIENT, CAN BE DEFEFRRED TO DIALYSIS TEAM)

FOLLOW UP APPOINTMENTS: 
- The ___ will schedule follow up and contact the patient 
or discharge facility. All questions regarding outpatient 
parenteral antibiotics after discharge should be directed to the 
___ R.N.s at
___ or to the on-call ID fellow when the clinic is 
closed. 

ID OPAT Intake Note - Transition of Care Summary

Clinical Course:
- ___ man with a past medical history of insulin 
dependent diabetes, coronary artery disease status post CABG, 
ESRD on HD (___), atrial fibrillation with a history of 
stroke, bilateral BKA, ischemic cardiomyopathy (EF 15%), and 
HIT,
who was transferred from ___ on ___ with MSSA 
bacteremia, likely ___ HD line catheter. Course complicated by 
evidence of ICD lead vegetation, now s/p extraction on ___. No 
current plans for replacement of ICD. Abx plan to complete 6 
week course for MSSA endocarditis with cefazolin (2g-2g-3g w/ 
each HD session) at first but since admitted with UGIB likely 
related to TPMT deficiency in setting of receiving cefazolin per 
hematology consult service impression. CHANGED to vancomycin 
this admission.

Essential Dates for OPAT therapy:
- ___: ICD explanted 
- ___: switched cefazolin to vancomycin

#CODE: full
#CONTACT:  ___ 
Relationship: son 
Phone number: ___ 

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Apixaban 5 mg PO BID 
2. ARIPiprazole 5 mg PO ONE TABLET DAILY. 
3. Aspirin 81 mg PO DELAYED REALEASE (___) ONE TABLET DAILY.  
4. Atorvastatin 80 mg PO ONE TABLET DAILY. 
5. BuPROPion (Sustained Release) 150 mg PO ONE TABLET DAILY. 
6. Furosemide 40 mg PO 4X/WEEK (___) 
7. Gabapentin 300 mg PO ONE CAPSULE BID. 
8. HydrOXYzine 25 mg PO ONE TABLET TID 
9. OxyCODONE SR (OxyconTIN) 20 mg PO DAILY 
10. Sarna Lotion 1 Appl TP QID:PRN dry skin, pruritis 
11. Senna 8.6 mg PO BID:PRN constipation 
12. sevelamer CARBONATE 1600 mg PO TID W/MEALS 
13. CeFAZolin 2 g IV POST HD (MO,WE) 
14. CeFAZolin 3 g IV POST HD (FR) 
15. glimepiride 1 mg oral ONE TABLET DAILY. 
16. Lisinopril 2.5 mg PO DAILY 
17. OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - 
Moderate 
18. Docusate Sodium 100 mg PO BID 
19. Metoprolol Succinate XL 75 mg PO DAILY 
20. Sertraline 150 mg PO ONCE 
21. LOPERamide 2 mg PO QID:PRN diarrhea 
22. Acetaminophen 1000 mg PO Q8H 

 
Discharge Medications:
1.  Glargine 15 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin 
2.  Lidocaine 5% Patch 1 PTCH TD QPM low back  
3.  Nephrocaps 1 CAP PO DAILY  
4.  Pantoprazole 40 mg PO Q12H  
5.  Warfarin 3 mg PO ONCE Duration: 1 Dose  
6.  Metoprolol Succinate XL 50 mg PO DAILY  
7.  Acetaminophen 1000 mg PO Q8H  
8.  ARIPiprazole 5 mg PO ONE TABLET DAILY.  
9.  Aspirin 81 mg PO DELAYED REALEASE (___) ONE TABLET DAILY.  
 
10.  Atorvastatin 80 mg PO ONE TABLET DAILY.  
11.  BuPROPion (Sustained Release) 150 mg PO ONE TABLET DAILY.  
12.  Docusate Sodium 100 mg PO BID  
13.  Furosemide 40 mg PO 4X/WEEK (___)  
14.  Gabapentin 300 mg PO ONE CAPSULE BID.  
15.  glimepiride 1 mg oral ONE TABLET DAILY.  
16.  HydrOXYzine 25 mg PO ONE TABLET TID  
17.  Lisinopril 2.5 mg PO DAILY  
18.  LOPERamide 2 mg PO QID:PRN diarrhea  
19.  OxyCODONE (Immediate Release) 5 mg PO Q8H:PRN Pain - 
Moderate 
RX *oxycodone 5 mg 1 capsule(s) by mouth every 8 hours as needed 
Disp #*21 Capsule Refills:*0 
20.  Sarna Lotion 1 Appl TP BID:PRN itching  
21.  Sarna Lotion 1 Appl TP QID:PRN dry skin, pruritis  
22.  Senna 8.6 mg PO BID:PRN constipation  
23.  Sertraline 150 mg PO ONCE Duration: 1 Dose  
24.  sevelamer CARBONATE 1600 mg PO TID W/MEALS  
25.Outpatient Lab Work
ATTN: ___ CLINIC - FAX: ___

vancomycin levels pre-HD as per HD protocol dosing
ONCE WEEKLY: CBC WITH DIFFERENTIAL, AST/ALT/ALKPHOS/TBILI, BMP 
(HD PATIENT, CAN BE DEFEFRRED TO DIALYSIS TEAM)

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
PRIMARY DIAGNOSES
=================
Upper gastrointestinal bleed
Hypotension
Coagulopathy

SECONDARY DIAGNOSES
=================
MSSA Bacteremia
Heart failure with reduced ejection fraction
Atrial fibrillation
End stage renal disease
Type II diabetes
Peripheral vascular disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

It was our pleasure to care for you at ___! You came to the 
hospital because you threw up and had dark stools.

WHAT HAPPENED IN THE HOSPITAL?
- We did an EGD, which showed an ulcer in your small intestine. 
This was the likely cause of your bleeding.
- You received blood transfusions.
- Your antibiotic and blood thinning medications were changed.

WHAT SHOULD YOU DO WHEN YOU LEAVE THE HOSPITAL?
- Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.
- Take your medications as prescribed and see your doctors for 
follow-up.

We wish you the best!

Sincerely,
Your care team at ___
 
Followup Instructions:
___